US04780471
2-(2,4-Dichlorobenzyloxy)acetophenone
o-Hydroxyacetophenone (40.85 g, 300 mmole) was dissolved in dimethyl sulfoxide (150 ml) and potassium carbonate (49.0 g, 355 mmole) was added to the mixture. Then, 2,4-dichlorobenzyl chloride (65.9 g, 337 mmole) was added dropwise with stirring. Stirring was continued at room temperature for 24 hours and water (225 ml) was added dropwise over 1 hour. After stirring at room temperature for additional 1 hour, the precipitated crystals were filtered off, washed with water (200 ml×3) and recrystallized from methanol to obtain the title compound (82.7 g, 93.4%), m.p. 83°-85° C.

reactant | o-Hydroxyacetophenone | 300 mmole, 40.85 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 355 mmole, 49.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 337 mmole, 65.9 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | water | 225 ml | O | H2O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 2-(2,4-Dichlorobenzyloxy)acetophenone | 82.7 g, 93.4% | ClC1=C(COCC(=O)C2=CC=CC=C2)C=CC(=C1)Cl | C15H12Cl2O2
